US06710055B2
1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]-5-(2,3-dihydroindol-1-yl-sulfonyl)benzimidazole hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]-5-(2,3-dihydroindol-1-yl-sulfonyl)benzimidazole and ethanolic hydrochloric acid, ethanol, and ammonium carbonate. Yield: 15% of theory, C24H24N6O2S (460.6); Rf value: 0.36 (silica gel; dichloromethane/methanol=4:1); EKA mass spectrum: (M+H)+=461.

reactant | 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]-5-(2,3-dihydroindol-1-yl-sulfonyl)benzimidazole | CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)N2CCC1=CC=CC=C21)CNC2=CC=C(C=C2)C#N | C24H21N5O2S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]-5-(2,3-dihydroindol-1-yl-sulfonyl)benzimidazole hydrochloride | Yield: 15% | Cl.CN1C(=NC2=C1C=CC(=C2)S(=O)(=O)N2CCC1=CC=CC=C21)CNC2=CC=C(C=C2)C(N)=N | InChI=1S/C24H24N6O2S.ClH/c1-29-22-11-10-19(33(31,32)30-13-12-16-4-2-3-5-21(16)30)14-20(22)28-23(29)15-27-18-8-6-17(7-9-18)24(25)26;/h2-11,14,27H,12-13,15H2,1H3,(H3,25,26);1H
